US09290511B2
Pyridinium chlorochromate (898 mg, 4.17 mmol) was added to a stirred solution of [1-(2-chloro-5-phenyl-thieno[2,3-d]pyrimidin-4-yl)-4-piperidyl]methanol (1 g, 2.78 mmol) in dry dichloromethane (ml) at room temperature. The resulting mixture was stirred for 2 h and then eluted through a pad of silica (eluting ethyl acetate). The solvent was evaporated to give the 1-(2-chloro-5-phenyl-thieno[2,3-d]pyrimidin-4-yl)piperidine-4-carbaldehyde as a pale yellow solid (1 g, quantitative yield). Product was used in the subsequent reaction without further purification. LCMS: (M+H)+358, RT=4.98 min.

reactant | Pyridinium chlorochromate | 4.17 mmol, 898 mg | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | [1-(2-chloro-5-phenyl-thieno[2,3-d]pyrimidin-4-yl)-4-piperidyl]methanol | 2.78 mmol, 1 g | ClC=1N=C(C2=C(N1)SC=C2C2=CC=CC=C2)N2CCC(CC2)CO | C18H18ClN3OS
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-(2-chloro-5-phenyl-thieno[2,3-d]pyrimidin-4-yl)piperidine-4-carbaldehyde | 1 g, quantitative yield | ClC=1N=C(C2=C(N1)SC=C2C2=CC=CC=C2)N2CCC(CC2)C=O | C18H16ClN3OS
